US06583321B1
Preparation of 4′-Methanesulfonyl-3,4-diisopropyloxy-biphenyl
4′-methanesulfonyl-biphenyl-3,4-diol (30 mg) and potassium carbonate (38 mg) were dissolved in methylethylketone. Afterward, 2-bromopropane (0.062 ml) was added and heated for 24 hours at 40° C. After filtering just potassium carbonate, the residue was separated through a silica gel attributed chromatography (an eluting agent: ethylacetate/n-hexane=1/1, v/v). As a result, the present compound (28 mg, productive yield 85%) was obtained.

reactant | 4′-methanesulfonyl-biphenyl-3,4-diol | 30 mg | CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=C(C=C1)O)O | C13H12O4S
reactant | potassium carbonate | 38 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromopropane | 0.062 ml | BrC(C)C | C3H7Br
reactant | methylethylketone | CC(=O)CC | C4H8O
product | 4′-Methanesulfonyl-3,4-diisopropyloxy-biphenyl | yield 85% | CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=C(C=C1)OC(C)C)OC(C)C | C19H24O4S
